US08232288B2
Stage (iii): 2-(N-Cyclopropyl-4-methoxy-2,6-dimethylphenylsulfonamido)acetic acid (C-08)
A solution of ethyl 2-(N-cyclopropyl-4-methoxy-2,6-dimethylphenyl-sulfonamido)acetate (2.7 mmol, 1 eq.) and LiOH (5 eq.) in THF/H2O (1:1) was stirred at room temperature for 12 h. The solvent was removed completely, in vacuo. The crude product was taken up in water and the mixture was washed with ethyl acetate. The aqueous phase was acidified to pH=4 with 1 M HCl and then extracted with ethyl acetate. The organic phase was dried over Na2SO4. After the solvent had been distilled off completely, the crude product was obtained, and was employed in the next stage without further purification. Yield: 83%

reactant | ethyl 2-(N-cyclopropyl-4-methoxy-2,6-dimethylphenyl-sulfonamido)acetate | 2.7 mmol, 1 eq. | C1(CC1)N(S(=O)(=O)C1=C(C=C(C=C1C)OC)C)CC(=O)OCC | C16H23NO5S
reactant | LiOH | 5 eq. | [Li+].[OH-]
solvent | THF H2O | C1CCOC1.O
product | 2-(N-Cyclopropyl-4-methoxy-2,6-dimethylphenylsulfonamido)acetic acid | Yield: 83% | C1(CC1)N(S(=O)(=O)C1=C(C=C(C=C1C)OC)C)CC(=O)O | C14H19NO5S
